US06291455B1
A solution of 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride (624 mg, 2.27 mmol) and 4-chloro-2-fluoroaniline (305 μl, 2.6 mmol) in isopropanol (20 ml) was heated at reflux for 30 minutes. The solvent was removed by evaporation and the residue partitioned between ethyl acetate and water. The organic layer was separated, washed with aqueous sodium hydrogen carbonate solution, then with water, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with ether to give 4-(4-chloro-2-fluoroanilino)-7-(2-methoxyethoxy)quinazoline (662 mg, 84%) as a white solid.

reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride | 2.27 mmol, 624 mg | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCOC
reactant | 4-chloro-2-fluoroaniline | 2.6 mmol, 305 μl | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-(4-chloro-2-fluoroanilino)-7-(2-methoxyethoxy)quinazoline | 662 mg, 84% | ClC1=CC(=C(NC2=NC=NC3=CC(=CC=C23)OCCOC)C=C1)F | C17H15ClFN3O2
